US07723336B2
Chloroacetaldehyde (1.6 ml, 10 mmol, 50% in H2O) was added to a solution of crude 4-bromo-6-chloro-5-methylpyridazin-3-amine (0.5 g, 2 mmol) from 1b in EtOH (5 mL). The mixture was heated in a sealed vial at 110° C. for 2 h. Solvent was removed in vacuo and the resulting solid was suspended in acetone/Et2O (1/1, 5 mL), filtered, and then washed with Et2O to give 8-bromo-6-chloro-7-methylimidazo[1,2-b]pyridazine HCl salt (0.5 g, >90% pure).

reactant | Chloroacetaldehyde | 10 mmol, 1.6 ml | ClCC=O | C2H3ClO
reactant | 4-bromo-6-chloro-5-methylpyridazin-3-amine | 2 mmol, 0.5 g | BrC1=C(N=NC(=C1C)Cl)N | C5H5BrClN3
solvent | EtOH | 5 mL | CCO | C2H6O
product | 8-bromo-6-chloro-7-methylimidazo[1,2-b]pyridazine HCl salt | 0.5 g, >90% | Cl.BrC=1C=2N(N=C(C1C)Cl)C=CN2 | InChI=1S/C7H5BrClN3.ClH/c1-4-5(8)7-10-2-3-12(7)11-6(4)9;/h2-3H,1H3;1H
